US05521173
4-(4-Methylphenoxy)benzoyl Chloride
A solution of 2.0 g of 4-(4-methylphenoxy)benzoic acid in 30 ml of methylene chloride is added 1.67 g of oxalyl chloride and the mixture refluxed for 30 minutes with stirring under nitrogen. The reaction mixture is evaporated in vacuo to a residue which is evaporated with carbon tetrachloride(2×30 ml).

reactant | 4-(4-methylphenoxy)benzoic acid | 2.0 g | CC1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C14H12O3
reactant | oxalyl chloride | 1.67 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Methylphenoxy)benzoyl Chloride | CC1=CC=C(OC2=CC=C(C(=O)Cl)C=C2)C=C1 | C14H11ClO2
